US04468394
7,8-Dihydroxy-2-oxo-2H-1-benzopyran-3-carboxylic acid (50 mg) was heated under reflux for 5.5 hours in thionyl chloride (20 mL), and then thionyl chloride was distilled off. Benzene (10 mL) was added to the residues, and the benzene was distilled off, followed by vacuum drying, to yield 7,8-dihydroxy-2-oxo-2H-1-benzopyran-3-carbonyl chloride.

reactant | 7,8-Dihydroxy-2-oxo-2H-1-benzopyran-3-carboxylic acid | 50 mg | OC1=C(C2=C(C=C(C(O2)=O)C(=O)O)C=C1)O | C10H6O6
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
product | 7,8-dihydroxy-2-oxo-2H-1-benzopyran-3-carbonyl chloride | OC1=C(C2=C(C=C(C(O2)=O)C(=O)Cl)C=C1)O | C10H5ClO5
